US08252810B2
(1) 3-(3-Bromopropyl)-8-methyl-8H-imidazo[1,2-a][1,3,5]triazine-2,4-dione
After suspending 8-methyl-8H-imidazo[1,2-a][1,3,5]triazine-2,4-dione (CAS 67464-13-5) (100 mg) in N,N-dimethylformamide (2 ml), 1,3-dibromopropane (0.18 ml) and sodium hydride (60% in oil) (27 mg) were added and the mixture was stirred at room temperature for 14 hours. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with water and brine in that order and then dried over anhydrous magnesium sulfate. After filtration, the solvent was distilled off under reduced pressure. The obtained solid was washed with diethyl ether to obtain the title compound (68 mg).

reactant | 8-methyl-8H-imidazo[1,2-a][1,3,5]triazine-2,4-dione | 100 mg | CN1C=CN2C1=NC(NC2=O)=O | C6H6N4O2
reactant | sodium hydride | 27 mg | [H-].[Na+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 1,3-dibromopropane | 0.18 ml | BrCCCBr | C3H6Br2
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-(3-Bromopropyl)-8-methyl-8H-imidazo[1,2-a][1,3,5]triazine-2,4-dione | 68 mg | BrCCCN1C(N=C2N(C1=O)C=CN2C)=O | C9H11BrN4O2
